US06369075B1
7-[(4′-tert-Butyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid ethyl ester
To 5 ml dioxane was added in sequence, 7-(2-bromobenzoylamino)quinoline-3-carboxylic acid ethyl ester (100 mg, 0.25 mmol), potassium carbonate (0.25 ml of 2.0M aqueous solution, 0.5 mmol), 1,1′-bis(diphenylphosphino)ferrocene (6.9 mg, 0.0125 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (10.2 mg, 0.0125 mmol) and 4-tert-butylbenzeneboronic acid (111.5 mg, 0.63 mmol). The resulting mixture was degassed and placed under a nitrogen atmosphere. The degassing procedure was repeated 5 times and the reaction mixture was heated under reflux under nitrogen overnight. The reaction mixture was then cooled to room temperature and poured into water. The aqueous mixture was extracted with ethyl acetate and the ethyl acetate solution was washed with brine, dried over anhydrous sodium sulfate and concentrated to dryness in vacuo. The residue was purified by preparative thick layer chromatography, eluting with 60:40 hexamethyl acetate to yield the title compound (99 mg, 87.3% yield).

reactant | 7-(2-bromobenzoylamino)quinoline-3-carboxylic acid ethyl ester | 0.25 mmol, 100 mg | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)NC(C1=C(C=CC=C1)Br)=O | C19H15BrN2O3
reactant | potassium carbonate | 0.5 mmol, 2.0M, 0.25 ml | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 0.0125 mmol, 10.2 mg | ClCCl | CH2Cl2
reactant | 4-tert-butylbenzeneboronic acid | 0.63 mmol, 111.5 mg | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.0125 mmol, 6.9 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 7-[(4′-tert-Butyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid ethyl ester | 99 mg, 87.3% yield | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(C)(C)C | C29H28N2O3
